US05041672
A reaction vessel was charged with 60 g of isopropyl alcohol, 50 g of water, 37.3 g of 2-chloro-5-methyl-p-nitroaniline, 5 g of potassium hydroxide and 0.6 g of 1,2-benzoquinone, and then the same procedure as in Example 1 was followed, to obtain 28.6 g of 2-chloro-5-methyl-p-phenylenediamine.

reactant | isopropyl alcohol | 60 g | C(C)(C)O | C3H8O
reactant | 2-chloro-5-methyl-p-nitroaniline | 37.3 g | ClC1=C(N)C=C(C(=C1)[N+](=O)[O-])C | C7H7ClN2O2
reactant | potassium hydroxide | 5 g | [OH-].[K+]
catalyst | 1,2-benzoquinone | 0.6 g | C1(C(C=CC=C1)=O)=O | C6H4O2
solvent | water | 50 g | O | H2O
product | 2-chloro-5-methyl-p-phenylenediamine | 28.6 g, Yield: 91% | ClC1=C(C=C(C(=C1)N)C)N | C7H9ClN2
